US07700786B2
Potassium carbonate (2.8 g, 20.0 mmol) was added to a solution of 3-hydroxy-5-methylpyrazole (1.47 g, 15.0 mmol) and 4-fluoro-3-trifluoromethylbenzonitrile (2.8 g, 15.0 mmol) in DMF (30 ml), and the mixture was stirred under heating at 80° C. for 6 hours. After completion of the reaction, the reaction mixture was poured into 2N hydrochloric acid (70 ml) and extracted with ethyl acetate (30 ml×3). An organic layer was washed with water, dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/5), to give a yellowish solid of 3-(4-cyano-2-trifluoromethylphenyloxy)-5-methylpyrazole (1.7 g, yield: 42.4%). mp: 123-125° C.; 1H-NMR (CDCl3, TMS, ppm): δ 2.28 (d, J=0.5 Hz, 3H), 5.75 (d, J=0.5 Hz, 1H), 7.30 (d, J=8.8 Hz, 1H), 7.75 (dd, J=2.0 and 8.8 Hz, 1H), 7.96 (d, J=2.0 Hz, 1H), 9.60-11.60 (br s, 1H).

reactant | Potassium carbonate | 20.0 mmol, 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-hydroxy-5-methylpyrazole | 15.0 mmol, 1.47 g | OC1=NNC(=C1)C | C4H6N2O
reactant | 4-fluoro-3-trifluoromethylbenzonitrile | 15.0 mmol, 2.8 g | FC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H3F4N
reactant | hydrochloric acid | 2N, 70 ml | Cl | ClH
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 3-(4-cyano-2-trifluoromethylphenyloxy)-5-methylpyrazole | 1.7 g, yield: 42.4% | C(#N)C1=CC(=C(C=C1)OC1=NNC(=C1)C)C(F)(F)F | C12H8F3N3O
